Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Cortisone / Zithromax Z-Pak
 
Attending: ___.
 
Chief Complaint:
right hip pain

 
Major Surgical or Invasive Procedure:
Right hip hemiarthroplasty

 
History of Present Illness:
___ woman with right hip pain

___ mechanical fall onto right hip, immediate onset of right 
hip pain, unable to ambulate.

Patient denies any antecedent hip pain, denies pain other than 
right hip

 
Past Medical History:
Diabetes

 
Social History:
___
Family History:
NC
 
Physical Exam:
Well apearing woman in NAD
Oriented to ___, Name, ___

Right Upper Extremity
No tenderness, deformity, erythema, ecchymosis
No pain with passive motion of shoulder, elbow, wrist, fingers
 
Left Upper Extremity 
No tenderness, deformity, erythema, ecchymosis
No pain with passive motion of shoulder, elbow, wrist, fingers

Right Lower Extremity 
wound c/d/i
Pain with any movement of right hip
Saphenous, Sural, Deep Peroneal, Superficial Peroneal, Tibial 
sensation intact to light touch although slight decreased 
globally
Extensor Hallucis Longus, Flexor Hallucis Longus, Tibialis 
Anterior fire
1+ posterior tibial 

Left Lower Extremity 
skin clean and intact
No tenderness, deformity, erythema, ecchymosis
No pain with passive motion of hip, knee, ankle, toes
Saphenous, Sural, Deep Peroneal, Superficial Peroneal, Tibial 
sensation intact to light touch slight decreased globally
Extensor Hallucis Longus, Flexor Hallucis Longus, Tibialis 
Anterior fire
1+ posterior tibial 

 
Pertinent Results:
___ 05:20PM   GLUCOSE-225* UREA N-13 CREAT-0.6 SODIUM-133 
POTASSIUM-4.9 CHLORIDE-102 TOTAL CO2-27 ANION GAP-9
___ 05:20PM   CALCIUM-8.3* PHOSPHATE-3.4 MAGNESIUM-1.8
___ 05:20PM   WBC-11.2* RBC-3.23* HGB-10.1* HCT-30.4* 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.2
___ 05:20PM   PLT COUNT-271
___ 01:40PM   GLUCOSE-211* UREA N-13 CREAT-0.6 SODIUM-134 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-11
___ 01:40PM   CALCIUM-8.6 PHOSPHATE-3.4 MAGNESIUM-1.9
___ 01:40PM   WBC-11.4* RBC-3.80* HGB-11.9* HCT-35.7* 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.2
___ 01:40PM   PLT COUNT-312
___ 04:30AM   GLUCOSE-141* UREA N-20 CREAT-0.6 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-29 ANION GAP-11
___ 04:30AM   estGFR-Using this
___ 04:30AM   WBC-9.1 RBC-4.01* HGB-12.4 HCT-38.2 MCV-95 
MCH-31.0 MCHC-32.5 RDW-13.0
___ 04:30AM   NEUTS-67.4 ___ MONOS-6.9 EOS-5.9* 
BASOS-0.5
___ 04:30AM   PLT COUNT-359
___ 04:30AM   ___ PTT-27.1 ___
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Trauma Service for 
repair of a right femoral neck fracture.  The patient was taken 
to the OR and underwent an uncomplicated right hip 
hemiarthroplasty.  The patient tolerated the procedure without 
complications and was transferred to the PACU in stable 
condition.  Please see operative report for details. Post 
operatively pain was controlled with a PCA with a transition to 
PO pain meds once tolerating POs.  The patient tolerated diet 
advancement without difficulty and made steady progress with ___.

Weight bearing status: WBAT RLE, anterolateral precautions.

The patient received ___ antibiotics as well as 
lovenox for DVT prophylaxis.  The incision was clean, dry, and 
intact without evidence of erythema or drainage; and the 
extremity was NVI distally throughout.  The patient was 
discharged in stable condition with written instructions 
concerning precautionary instructions and the appropriate 
follow-up care.  The patient will be continued on chemical DVT 
prophylaxis for 4 weeks post-operatively.  All questions were 
answered prior to discharge and the patient expressed readiness 
for discharge.

 
Medications on Admission:
Levimir 6 units ___, Novolog 3 units AC, Lipitor

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Atorvastatin 10 mg PO DAILY 
3. Calcium Carbonate 500 mg PO TID 
4. Docusate Sodium 100 mg PO BID 
5. Enoxaparin Sodium 40 mg SC DAILY Duration: 4 Weeks 
6. levemir 7 Units Breakfast
levemir 6 Units Bedtime
Insulin SC Sliding Scale using novolog Insulin
7. Multivitamins 1 CAP PO DAILY 
8. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg every four (4) hours Disp #*50 Tablet 
Refills:*0
9. Senna 1 TAB PO BID 
10. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right femoral neck fracture

 
Discharge Condition:
stable
alert and oriented
ambulatory

 
Discharge Instructions:
******SIGNS OF INFECTION**********
Please return to the emergency department or notify MD if you 
should experience severe pain, increased swelling, decreased 
sensation, difficulty with movement; fevers >101.5, chills, 
redness or drainage at the incision site; chest pain, shortness 
of breath or any other concerns.
-Wound Care: You can get the wound wet/take a shower starting 
from 3 days post-op. No baths or swimming for at least 4 weeks. 
Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment. No dressing is needed 
if wound continued to be non-draining.

******WEIGHT-BEARING*******
Weight bearing as tolerated in right lower extremity; 
anterolateral precautions

******MEDICATIONS***********
- Resume your pre-hospital medications.
- You have been given medication for your pain control. Please 
do not operate heavy machinery or drink alcohol when taking this 
medication. As your pain improves please decrease the amount of 
pain medication. This medication can cause constipation, so you 
should drink ___ glasses of water daily and take a stool 
softener (colace) to prevent this side effect.
-Medication refills cannot be written after 12 noon on ___.

*****ANTICOAGULATION******
- Take Lovenox for DVT prophylaxis for 4 weeks post-operatively.

******FOLLOW-UP**********
Please have your staples removed at your rehabilitation facility 
at post-operative day 14.

Please follow up with ___ in 14 days 
post-operation for evaluation. Call ___ to schedule 
appointment upon discharge.

Please follow up with your PCP regarding this admission and any 
new medications/refills.
Physical Therapy:
WBAT RLE, anterolateral precautions
Treatments Frequency:
physical therapy
wound care
nursing
 
Followup Instructions:
___